US05290934
Employing ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate (1.0 g) and 70 % aqueous ethylamine solution (0.24 ml), the procedure of Reference Example 8 is repeated to give ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethylaminoacrylate, which is then treated with 60 sodium hydride (0.15 g) as in Reference Example 9 to give ethyl 1-ethyl-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.6 g), as white crystals, m.p. 157°-159° C.

reactant | ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate | 1.0 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=CC(=C1F)F)F | C15H15F3O4
reactant | ethylamine | 0.24 ml | C(C)N | C2H7N
product | ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethylaminoacrylate | CC1=C(C(=O)C(C(=O)OCC)=CNCC)C(=CC(=C1F)F)F | C15H16F3NO3
